US03959260
2β-Ethoxy-21-morpholinoacetylthio-3α-hydroxy-5α-pregnane-11,20-dione hydrochloride
2β-Ethoxy-3α-hydroxy-21-morpholinoacetylthio-5α-pregnane-11,20-dione (134 mg., 0.25 mmole) was dissolved in 0.1 M hydrochloric acid (2.5 ml. 0.25 mmole) and the resulting clear solution was diluted to 13 ml. by the addition of distilled water to give a 1% aqueous solution of the title compound.

reactant | 2β-Ethoxy-3α-hydroxy-21-morpholinoacetylthio-5α-pregnane-11,20-dione | 0.25 mmole, 134 mg | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CSC(CN5CCOCC5)=O)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | C29H45NO6S
reactant | hydrochloric acid | 0.25 mmole, 0.1 M, 2.5 ml | Cl | ClH
solvent | water | O | H2O
product | 2β-Ethoxy-21-morpholinoacetylthio-3α-hydroxy-5α-pregnane-11,20-dione hydrochloride | Cl.C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(CSC(CN5CCOCC5)=O)=O)[C@]4(CC([C@@H]3[C@]2(C1)C)=O)C)O | InChI=1S/C29H45NO6S.ClH/c1-4-36-25-15-28(2)18(13-22(25)31)5-6-19-20-7-8-21(29(20,3)14-23(32)27(19)28)24(33)17-37-26(34)16-30-9-11-35-12-10-30;/h18-22,25,27,31H,4-17H2,1-3H3;1H/t18-,19-,20-,21+,22-,25-,27+,28-,29-;/m0./s1
